US05569664
A stirred solution of 0.8 gram (0.0014 mole) of N-(4-aminophenylmethyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine in 15 mL of tetrahydrofuran was cooled to 0° C., and 0.11 mL of methyl chloroformate was added dropwise from a syringe. Upon completion of the addition, 0.12 mL of pyridine was added in one portion. The reaction mixture was allowed to warm to ambient temperature where it stirred for about 18 hours. After this time the reaction mixture was poured into a mixture of ethyl acetate and an aqueous solution saturated with sodium chloride. After a period of stirring, the organic layer was separated and dried with sodium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residual solid. The solid was subjected to column chromatography on silica gel, with pure methylene chloride, and 1:9, 1:4, 1:3, and 3:7 mixtures of acetone:methylene chloride as eluants. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.45 gram of N-[4-(methoxycarbonylamino)phenylmethyl]-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine. The NMR spectrum was consistent with the proposed structure.

reactant | N-(4-aminophenylmethyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine | 0.0014 mole, 0.8 gram | NC1=CC=C(C=C1)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C27H26F6N2O3
reactant | methyl chloroformate | 0.11 mL | ClC(=O)OC | C2H3ClO2
reactant | pyridine | 0.12 mL | N1=CC=CC=C1 | C5H5N
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(methoxycarbonylamino)phenylmethyl]-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine | 0.45 gram | COC(=O)NC1=CC=C(C=C1)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C29H28F6N2O5
